US05849217
(2) Preparation of 2-{4-(4-methoxyphenyl) phenyl}ethylbenzylether
1.57 g (10.3 mmol) of 4-methoxyphenyl malonic acid, 3.0 g (10.3 mmol) of 2-(4-bromophenyl) ethylbenzylether, 0.38 g of tetrakis (triphenylphosphine) palladium, 15 ml of 2M-sodium carbonate solution, 15 ml of toluene and 10 ml of ethanol were heated at 80° C. for 4 hours under presence of nitrogen. After reactions had been completed, extraction with toluene was performed. Then, the extracted solution was dried with anhydrous sodium sulfate. The solvent was removed by filtration, and then refining was performed with a silica gel column chromatography (developing solvent: toluene) and by recrystallization (ethanol) so that 2.63 g of 2-{4-(4-methoxyphenyl) phenyl}ethylbenzylether was obtained (yield 80%).

reactant | 4-methoxyphenyl malonic acid | 10.3 mmol, 1.57 g | COC1=CC=C(C=C1)C(C(=O)O)C(=O)O | C10H10O5
reactant | 2-(4-bromophenyl) ethylbenzylether | 10.3 mmol, 3.0 g | BrC1=CC=C(C=C1)CCOCC1=CC=CC=C1 | C15H15BrO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | 0.38 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-{4-(4-methoxyphenyl) phenyl}ethylbenzylether | yield 80% | COC1=CC=C(C=C1)C1=CC=C(C=C1)CCOCC1=CC=CC=C1 | C22H22O2
